US06620842B2
1-[3-Methyl-7-(3-Methylbut-2-Enyloxy)Flavon-8-yl]-3-(4-Chloro-Phenyl)-Propen-1-one (See Accompanying Formula Drawing VIB 239).
A solution of KOH 50% (3 ml) is added to an equimolar solution of 7-(3-methylbut-2-enyloxy)-8-acetyl-3-methylflavone (2.71 g, 0.0075 mol) and 4-chloro-benzaldehyde (1.05 g, 0.0075 mol) in ethanol 95%; the addition is performed under energetic stirring at room temperature. The reaction is left under stirring for one night and then diluted with water and acidified; the precipitate is separated by filtration and dried under vacuum. The compound is crystallized by methanol to give 1.9 g product m.p. 130-133° C., 1H-NMR (CDCl3) δ:1.69 (s, 3H), 1.72 (s, 3H), 2.19 (s, 3H), 4.65 (d. 2H), 5.31 (m, 1H), 6.97-8.42 (m, 13H).

reactant | KOH | 3 ml | [OH-].[K+]
reactant | 7-(3-methylbut-2-enyloxy)-8-acetyl-3-methylflavone | 0.0075 mol, 2.71 g | CC(=CCOC1=CC=C2C(C(=C(OC2=C1C(C)=O)C1=CC=CC=C1)C)=O)C | C23H22O4
reactant | 4-chloro-benzaldehyde | 0.0075 mol, 1.05 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 1-[3-Methyl-7-(3-Methylbut-2-Enyloxy)Flavon-8-yl]-3-(4-Chloro-Phenyl)-Propen-1-one | 1.9 g | CC1=C(OC2=C(C(=CC=C2C1=O)OCC=C(C)C)C(C=CC1=CC=C(C=C1)Cl)=O)C1=CC=CC=C1 | C30H25ClO4
